US08067447B2
(1-(4-Fluorophenyl)-6-methyl-1H-indazol-5-yl)methanol (178 mg, 0.51 mmol) was dissolved in 5 mL of dry DCM and BF3—OEt2 (0.09 mL, 0.7 mmol) was added portionwise and then stirred 30 min. Then the reaction was treated with 1-methoxy-2-methyl-1-(trimethylsiloxy)propene (0.43 mL, 2.1 mmol). The reaction was quenched with aqueous sodium bicarbonate and extracted 2×EtOAc, the organic layers dried over MgSO4, filtered, and concentrate. The residue was purified on SiO2 by MPLC using a 5:95 to 1:9 gradient to give 121 mg (51% yield) of methyl 3-(1-(4-fluorophenyl)-6-methyl-1H-indazol-5-yl)-2,2-dimethylpropanoate. MS found: (M+H)+=341.

reactant | (1-(4-Fluorophenyl)-6-methyl-1H-indazol-5-yl)methanol | 0.51 mmol, 178 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)CO | C15H13FN2O
reactant | BF3 OEt2 | 0.7 mmol, 0.09 mL | B(F)(F)F.O(CC)CC
reactant | 1-methoxy-2-methyl-1-(trimethylsiloxy)propene | 2.1 mmol, 0.43 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(1-(4-fluorophenyl)-6-methyl-1H-indazol-5-yl)-2,2-dimethylpropanoate | 121 mg, 51% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)CC(C(=O)OC)(C)C | C20H21FN2O2
